US05929072
A suspension of N-(1-methylethyl)-(2-nitro-6-fluorophenyl)methylamine (0.4 g, 1.89 mmol), tin chloride dihydrate (1.75 g) in water (8 ml) was added HCl 12N (2 ml). The mixture was refluxed for 4 hours. Then, the reaction mixture was allowed to reach room temperature and was neutralized by addition of NaOH 2N and extracted with diethyl ether (1×100 ml), dried over MgSO4 and evaporated under reduced pressure to afford N-(1-methylethyl)-(2-amino-6-fluorophenyl)methylamine.

reactant | N-(1-methylethyl)-(2-nitro-6-fluorophenyl)methylamine | 1.89 mmol, 0.4 g | CC(C)NCC1=C(C=CC=C1F)[N+](=O)[O-] | C10H13FN2O2
reactant | tin chloride dihydrate | 1.75 g | O.O.[Sn](Cl)(Cl)(Cl)Cl
reactant | HCl | 12N, 2 ml | Cl | ClH
reactant | NaOH | 2N | [OH-].[Na+]
solvent | water | 8 ml | O | H2O
product | N-(1-methylethyl)-(2-amino-6-fluorophenyl)methylamine | CC(C)NCC1=C(C=CC=C1F)N | C10H15FN2
